US06358928B1
Z-Gly-Leu-PheCH2OH:
To Z-Gly-LeuOH (0.64 g, 2 mmol) in DMF (10 mL) are added HCl·HPheCH2OH (0.38 g, 2 mmol), TEA (0.28 mL, 2 mmol) and hydroxybenzotriazole (0. 27, 2 mmol). The reaction mixture is cooled to 0° C. and dicyclohexylcarbodiimide (0.41 g, 2 mmol) is added. The reaction mixture is stirred 1 hour at 0° C. followed by stirring for 12 hours at room temperature. EtOAc (30 mL) is added and the mixture is filtered. The filtrate is washed with 1M HCl saturated with NaHCO3, washed with water, dried over anhydrous MgSO4, and evaporated to dryness. The product is purified over a silica gel column eluted with (95:5) EtOAc/MeOH.

reactant | Z-Gly-LeuOH | 2 mmol, 0.64 g | N(CC(=O)N[C@@H](CC(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C16H22N2O5
reactant | hydroxybenzotriazole | 2 mmol | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 2 mmol, 0.41 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Z-Gly-Leu-PheCH2OH | N(CC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)CO)C(=O)OCC1=CC=CC=C1 | C25H33N3O5
